2117-06-26 19:40:00 Physician Attending Progress Note
Chief Complaint: confusion, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78W discharged from [**Hospital1 54**] most recently in [**4-1**] - tranferred back
   because of worsening weakness, somnolence, hypercapnia over the past
   month. She has required continual vent support for the past 2-3 weeks -
   until then she was only ventilated at night. She lived independently as
   recently as earlier this year. Other issues have inclued worsening
   anasarca, diarrhea.
   24 Hour Events:
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   DM
   OSA
   HTN
   trach x '[**89**]
   breast cancer
   recurrent CDiff
   CHF - diastolic
   PAF
   ASD
   cor pulmonale
   LGIB
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Psychiatric / Sleep: Delirious
   Flowsheet Data as of  [**2117-6-26**] 07:40 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 72 (72 - 94) bpm
   BP: 110/48(64) {105/48(64) - 142/83(99)} mmHg
   RR: 14 (14 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                    100 mL
   Urine:
   100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 33 cmH2O
   SpO2: 96%
   ABG: 7.35/59/67/32/4
   Ve: 6.2 L/min
   PaO2 / FiO2: 134
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), left arm midline
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   239 K/uL
   134 mg/dL
   1.9 mg/dL
   32 mEq/L
   5.1 mEq/L
   85 mg/dL
   105 mEq/L
   145 mEq/L
   26.7 %
   9.2 K/uL
        [image002.jpg]
                             [**2117-6-26**]  05:18 PM
                             [**2117-6-26**]  06:54 PM
   WBC
   9.2
   Hct
   26.7
   Plt
   239
   Cr
   1.9
   TCO2
   34
   Glucose
   134
   Other labs: PT / PTT / INR:17.9/33.7/1.6, ALT / AST:32/66, Alk Phos / T
   Bili:114/0.2, Differential-Neuts:85.3 %, Band:0.0 %, Lymph:11.0 %,
   Mono:3.3 %, Eos:0.2 %, Lactic Acid:1.1 mmol/L, Albumin:2.4 g/dL,
   LDH:274 IU/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:4.6 mg/dL
   Imaging: CXR - cardiomegaly, large PAs, patchy infiltrates, likely
   effusion  - stable
   Assessment and Plan
   Altered mental status - seems metabolic and a consequence of her CDiff
   diarrhea, also has history of CVA. Not hypercarbic, TSH pending. Will
   CT head.
 RESPIRATORY FAILURE, CHRONIC - hypoventilation perhaps because of
   poor mental status, continue vent support
 wean once mental status
   improves. Also has thick secretions from trach
 will culture
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   - on PO vanco, recheck toxin, check SPEP
   anasarca/diastolic CHF/cor pulmonale - will diurese
   a-fib - cont coumadin
   ICU Care
   Nutrition: cont TFs
   Glycemic Control:
   Lines:
   Midline - [**2117-6-26**] 04:15 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: hold in light of diarrhea
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 37
   Patient is critically ill

2117-06-27 05:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2117-6-26**] 04:15 PM
   placed in outside facility [**2117-6-17**]. [**Name8 (MD) **] RN report from [**Hospital1 723**], it was
   initially a PICC line but then pulled out 8 cm and now being used as
   midline
 INVASIVE VENTILATION - START [**2117-6-26**] 04:45 PM
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2117-6-27**] 12:14 AM
   Vancomycin - [**2117-6-27**] 12:14 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2117-6-26**] 10:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-6-27**] 05:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36
C (96.8
   HR: 70 (61 - 94) bpm
   BP: 131/117(121) {83/30(48) - 142/117(121)} mmHg
   RR: 15 (14 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     90 mL
                                                                     50 mL
   PO:
             TF:
   IVF:
   50 mL
   Blood products:
   Total out:
                                                                    225 mL
                                                                    170 mL
   Urine:
                                                                    225 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -135 mL
                                                                   -120 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 30 cmH2O
   Compliance: 22.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/59/67/30/4
   Ve: 9 L/min
   PaO2 / FiO2: 134
   Physical Examination
   General
 Opens eyes to verbal stimuli
   CV
 difficult to hear heart sounds [**1-25**] trach and pt
s habitus
   Resp
 clear to auscultation anteriorly
   Abdomen
 obese, bowel sounds present
   Ext
 pitting edema present in lower extremities
   Labs / Radiology
   226 K/uL
   7.8 g/dL
   116 mg/dL
   1.9 mg/dL
   30 mEq/L
   5.1 mEq/L
   84 mg/dL
   106 mEq/L
   144 mEq/L
   26.1 %
   9.4 K/uL
        [image002.jpg]
   Color
   Yellow
   Appear
   Cloudy
   SpecGr
   1.014
   pH
   5.0
   Urobil
   Neg
   Bili
   Neg
   Leuk
   Lg
   Bld
   Mod
   Nitr
   Neg
   Prot
   30
   Glu
   Neg
   Ket
   Neg
   RBC
   79
   WBC
   600
   Bact
   Many
   Yeast
   None
   Epi
   0
   Other Urine Counts
   WBC-Clm: Many
   Mucous: Rare
                             [**2117-6-26**]  05:18 PM
                             [**2117-6-26**]  06:54 PM
                             [**2117-6-27**]  03:15 AM
   WBC
   9.2
   9.4
   Hct
   26.7
   26.1
   Plt
   239
   226
   Cr
   1.9
   1.9
   TCO2
   34
   Glucose
   134
   116
   Other labs: PT / PTT / INR:17.4/33.2/1.6, ALT / AST:32/66, Alk Phos / T
   Bili:114/0.2, Differential-Neuts:85.3 %, Band:0.0 %, Lymph:11.0 %,
   Mono:3.3 %, Eos:0.2 %, Lactic Acid:1.1 mmol/L, Albumin:2.4 g/dL,
   LDH:274 IU/L, Ca++:8.5 mg/dL, Mg++:2.3 mg/dL, PO4:4.7 mg/dL
   CT Head (PRELIM READ) No acute intracranial process.  Stable chronic
   changes from prior infarcts.  Small extraaxial hyperdensity anterior to
   left pons, unchanged from [**2117-3-24**], may represent a small meningioma.
   BNP - [**Numeric Identifier 9507**]
   Assessment and Plan
   78 F with MMP including OSA requiring trach, d CHF, AFib, chronic C.
   diff infection presents from LTAC with worsening mental status and
   failure to improve.
   .
   # Altered Mental Status
 likely secondary to an infectious process
   (vs. hypoxia vs. stroke)
   - head CT
 no acute intracranial process
   - sputum, blood, and urine cultures pending
   - follow electrolytes
   - pt started on ceftriaxone [**1-25**] 600 WBC
s on UA
 will hold off on this
   until culture and sensitivity back so as to no worsen the pt
s c.diff
   .
   # C.diff Infection
 leading to severe malnutrition
   - continue PO Vanc and stop PPI
   - will check a c.diff titer on the patient
 will also try to obtain
   records from [**Hospital1 723**]
   - consider GI consult for further options
   .
   # Respiratory Failure
 infection vs. fluid overload [**1-25**] CHF.
   - f/u sputum culture; continue to follow ABG
   - consider CT to evaluate for lung process
   - diuresis
 will start lasix gtt for a goal diuresis of 2L today
   .
   # Diastolic Heart Failure
   - diuresis
 Goal negative 2L today, had minimal response to 40 mg IV
   lasix, will start lasix gtt
   - rate control PRN
   - consider restarting statin
   .
   # Acute on Chronic Renal Failure
   - Cr was 1.9 on admit
   - Baseline is 1.1-1.3
   - continue to monitor BUN and Cr
   .
   # A.fib
   - was in AFib on transfer but converted to sinus.
   - Continue coumadin with goal INR [**1-26**]
 will increase from 2 to 4 mg
   - rate control as needed (HR currently 70
   .
   # H/o Breast Cancer
   - Continue arimidex.
   .
   # DM2
   - Will start ISS
   .
   # GERD
   - pt off of PPI because it may interfere with PO vanc
   .
   # Decubitus Ulcers
   - will consult wound care
   - will continue to monitor
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2117-6-26**] 04:15 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments: Patient and sister
   [**Name (NI) 66**] status: Full code
   Disposition:ICU

2117-06-28 06:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - obtained medical records from [**Hospital **] rehab: pt with C diff pos toxin
   on [**2117-5-28**]; was tx with flagyl and po vanc. results to be faxed here.
   - wound consult
   - EKG ordered as pt's monitor was [**Location (un) 308**] poorly --> unchanged from
   prior.  CE's ordered as pt mentioned some dull CP.
   - trop and MB slightly elevated, but notably so from her baseline -->
   started on asa, heparin gtt, and coumadin d/c'ed (tx for ACS).
   - CE cycled q8.
   - diureses slowing down despite lasix at 15
   - added zaroxyln
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2117-6-27**] 12:14 AM
   Vancomycin - [**2117-6-27**] 11:42 PM
   Infusions:
   Heparin Sodium - 450 units/hour
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2117-6-27**] 07:48 AM
   Heparin Sodium - [**2117-6-27**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-6-28**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96.1
   Tcurrent: 35.6
C (96
   HR: 76 (61 - 86) bpm
   BP: 106/82(87) {83/32(47) - 126/87(92)} mmHg
   RR: 20 (16 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,221 mL
                                                                    664 mL
   PO:
             TF:
                                                                    676 mL
                                                                    509 mL
   IVF:
                                                                    175 mL
                                                                    154 mL
   Blood products:
   Total out:
                                                                  1,385 mL
                                                                  1,255 mL
   Urine:
                                                                  1,385 mL
                                                                    255 mL
   NG:
   Stool:
   1,000 mL
   Drains:
   Balance:
                                                                   -164 mL
                                                                   -591 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   SpO2: 98%
   ABG: 7.45/46/57/28/6 (7 AM [**2117-6-27**])
   Ve: 10 L/min
   PaO2 / FiO2: 114
   Physical Examination
   Gen
l: Comfortable on vent, alert, but not interacting
   Pulm: crackles anteriorally
   CV: Regular rate, holosyst murmur
   Ext: 3+ edema/anasarca
   Labs / Radiology
   240 K/uL
   7.7 g/dL
   190 mg/dL
   1.9 mg/dL
   28 mEq/L
   4.6 mEq/L
   84 mg/dL
   107 mEq/L
   146 mEq/L
   25.7 %
   12.7 K/uL
        [image002.jpg]
                             [**2117-6-26**]  05:18 PM
                             [**2117-6-26**]  06:54 PM
                             [**2117-6-27**]  03:15 AM
                             [**2117-6-27**]  07:16 AM
                             [**2117-6-27**]  06:57 PM
                             [**2117-6-28**]  03:45 AM
   WBC
   9.2
   9.4
   12.7
   Hct
   26.7
   26.1
   25.7
   Plt
   [**Telephone/Fax (3) 9523**]
   Cr
   1.9
   1.9
   1.9
   1.9
   TropT
   0.62
   TCO2
   34
   33
   Glucose
   134
   116
   139
   190
   Other labs: PT / PTT / INR:19.2/150.0/1.8, CK / CKMB /
   Troponin-T:98/10/0.62, ALT / AST:32/66, Alk Phos / T Bili:114/0.2,
   Differential-Neuts:85.3 %, Band:0.0 %, Lymph:11.0 %, Mono:3.3 %,
   Eos:0.2 %, Lactic Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:274 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.3 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   78 y/o female with MMP including OSA requiring trach, d CHF, AFib,
   chronic C. diff infection presents from LTAC with worsening mental
   status and failure to improve.
   # Altered Mental Status
 per family, pt has been more irritable and
   lethargic.  With nursing, she is alert and oriented x [**1-26**].  With
   physicians, she is minimally interactive.  DDX includes infection vs.
   hypoxia vs. new CVA vs. electrolyte abnormalities.  Most likely source
   is infectious process, given the + U/A and urine cx growing GNRs from
   [**2117-6-26**].
   - head CT
 no acute intracranial process
   - sputum cx contaminant and blood cx pending
   - follow electrolytes (urea seems stable)
   - pt started on ceftriaxone [**1-25**] 600 WBC
s on UA
 then held until cx
   and sensitivity back.  Will re-start rocephin today and cont PO
   vancomycin for potential C diff.
   # Elevated cardiac enzymes
 pt c/o chest tightness, EKG done and
   unchanged from prior.  Cardiac enzymes drawn and troponin bump to 0.6.
   Concern for ACS.
   - pt started on asa, heparin gtt
   - coumadin held
   - not started on BB due to her periods of bradycardia
   # Leukocytosis
 likely stress response vs. infectious response (WBC up
   to 12.7 from 9.4).  Can be consistent with her urinary tract infection
   noted above.
   - will tx with rocephin pending urine cx results
   # hx of C.diff Infection
 leading to severe malnutrition
   - C diff toxin assay pending
   - records from [**Hospital1 723**] show that pt has been C diff pos in [**Month (only) 1996**] and then
   [**2117-5-28**]
   - consider GI consult for further options if she is pos here
   - She may need to be on long term suppressive C diff therapy.  Will
   consult ID.
   # Respiratory Failure
 currently with trach on vent setting CMV 450 x
   15, 12 PEEP and 50% FIO2 with oxygenation that is somewhat poor.  PEEP
   was increased overnight.
   - DDX includes infection vs. fluid overload [**1-25**] CHF.  Also has
   underlying OSA, obesity hypoventilation syndrome, pulm htn, and RV
   failure causing LV failure.
   - sputum culture contaminant specimen
   - consider CT to evaluate for lung process
   - diuresis
 will start lasix gtt with zaroxlyn for a goal diuresis of
   2L.  She was +500 ml overnight.  She may require CVVH as she is
   apparently 100 lbs over her dry weight; will discuss with renal.
   # Diastolic Heart Failure/volume overload
   - diuresis
 Goal negative 2L today, had minimal response to lasix gtt
   overnight.
   - can discuss role of sildenafil and afterloading the RV, but this may
   cause her LV to decompensate.
   - have added zaroxlyn.
   - rate control PRN
   - consider restarting statin (and also for potential ACS).
   # Acute on Chronic Renal Failure
   - Cr was 1.9 on admit
   - Baseline is 1.1-1.3
   - continue to monitor BUN, Cr, UOP
   # A.fib
   - was in AFib on transfer but converted to sinus.
   - Continue coumadin with goal INR [**1-26**]
 will increase from 2 to 4 mg
   - rate control as needed (HR currently 70
   # H/o Breast Cancer
   - Continue arimidex.
   # DM2
   - Will start ISS
   # GERD
   - pt off of PPI as it may interfere with PO vanc
   # Decubitus Ulcers
   - will consult wound care
   - will continue to monitor
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2117-6-28**] 03:49 AM 75 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2117-6-26**] 04:15 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: off PPI as it may interfere with C diff tx.
   VAP:  elevate HOB, mouth care
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: ICU

2117-06-29 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2117-6-27**] 11:42 PM
   Ceftriaxone - [**2117-6-28**] 12:00 PM
   Infusions:
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-6-29**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.4
C (95.8
   HR: 89 (55 - 96) bpm
   BP: 98/47(58) {78/36(46) - 153/102(113)} mmHg
   RR: 24 (19 - 45) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,628 mL
                                                                    572 mL
   PO:
             TF:
                                                                  1,842 mL
                                                                    520 mL
   IVF:
                                                                    616 mL
                                                                     52 mL
   Blood products:
   Total out:
                                                                  1,890 mL
                                                                    540 mL
   Urine:
                                                                    890 mL
                                                                    540 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                    738 mL
                                                                     32 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 26 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 98%
   ABG: ///30/
   Ve: 8.6 L/min
   Physical Examination
   General
 Pt is arousable to verbal stimuli; she will nod answers to
   questions but answers not always appropriate
   CV
 no murmurs, rubs, or gallops appreciated
   Resp
 clear to auscultation anteriorly
   Abdomen
 obese; bowel sounds present; pt winces on palpation of the
   abdomen; but, when asked if she has pain in her abdomen, she gives
   conflicting answers
   Extremities
 pt has significant edema in her upper and lower
   extremities
   Labs / Radiology
   229 K/uL
   7.6 g/dL
   142 mg/dL
   2.0 mg/dL
   30 mEq/L
   4.1 mEq/L
   86 mg/dL
   103 mEq/L
   142 mEq/L
   25.0 %
   12.0 K/uL
        [image002.jpg]
                             [**2117-6-26**]  05:18 PM
                             [**2117-6-26**]  06:54 PM
                             [**2117-6-27**]  03:15 AM
                             [**2117-6-27**]  07:16 AM
                             [**2117-6-27**]  06:57 PM
                             [**2117-6-28**]  03:45 AM
                             [**2117-6-28**]  11:47 AM
                             [**2117-6-29**]  03:53 AM
   WBC
   9.2
   9.4
   12.7
   12.0
   Hct
   26.7
   26.1
   25.7
   25.0
   Plt
   [**Telephone/Fax (3) 9529**]29
   Cr
   1.9
   1.9
   1.9
   1.9
   2.0
   TropT
   0.62
   0.61
   0.76
   TCO2
   34
   33
   Glucose
   134
   116
   139
   190
   142
   Other labs: PT / PTT / INR:24.6/78.3/2.4, CK / CKMB /
   Troponin-T:88/10/0.76, ALT / AST:32/66, Alk Phos / T Bili:114/0.2,
   Differential-Neuts:85.3 %, Band:0.0 %, Lymph:11.0 %, Mono:3.3 %,
   Eos:0.2 %, Lactic Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:274 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   78 y/o female with MMP including OSA requiring trach, d CHF, AFib,
   chronic C. diff infection presents from LTAC with worsening mental
   status and failure to improve.
   # Altered Mental Status
 most likely etiology is infection
   - urine cx growing GNR
s; blood cx pending and sputum cx rejected [**1-25**]
   contamination with oropharyngeal secretions
   - consider repeating sputum cultures
   - head CT
 no acute intracranial process
   - pt was re-started on ceftriaxone yesterday
 will continue
   # Elevated cardiac enzymes
 pt had c/o chest tightness
 EKG was done
   and unchanged from prior
   - troponin bumped to 0.7 yesterday; however, CPK trending down
   - pt started on ASA and heparin gtt
 goal PTT is 50-80
 PTT now 78.3
   - concern for ACS is low with CPK
s trending down
 elevated Tn likely
   [**1-25**] renal failure
   - will stop heparin gtt and will restart anticoagulation after dialysis
   catheter is placed
   - pt also on a statin
   - not started on BB due to her periods of bradycardia
 will continue
   to hold at this point as pts HR and BP still somewhat low
   # Leukocytosis
 likely stress response vs. infectious response
   - pt on ceftriaxone for urine cx with GNR
s; pt afebrile
   - WBC down to 12.0 from 12.7
   - continue to monitor WBC
   # Hx of C.diff Infection
   - C diff toxin assay pending
   - [**Hospital1 723**] records
 C.diff + in [**Month (only) 1996**] and then [**2117-5-28**]
   - consider GI consult for further options if she is positive here
   - also, consider ID consult
   # Respiratory Failure
 currently with trach; CMV 450 x 15, 12 PEEP and
   50% FIO2
   - PEEP had been increased 2 days ago; SaO2 98%
   - consider repeat ABG
   - sputum culture contaminant specimen
 consider repeating
   - consider CT to evaluate for lung process
   - diuretics were d/c
ed yesterday [**1-25**] to pt no UOP
 consider CVVH as
   pt is supposedly very fluid overloaded
   # Diastolic Heart Failure/volume overload
   - no response to lasix or zaroxylyn
   - consider CVVH
   - possible role of sildenafil and afterloading the RV, but this may
   cause her LV to decompensate
   # Acute on Chronic Renal Failure
   - Cr was 1.9 on admit
 now at 2.0
   - Baseline is 1.1-1.3
   - UOP was 890mL yesterday
   - continue to monitor BUN, Cr, UOP
   # A.fib
   - was in AFib on transfer but converted to sinus; looks to be in Afib
   now
   - Coumadin was stopped and heparin gtt started because of potential for
   ACS
 will stop heparin now as low suspicion for ACS
 will restart
   coumadin after pt has her dialysis catheter placed
   - will discuss when we can restart warfarin
   - rate control PRN
   # H/o Breast Cancer
   - continue arimidex.
   # DM2
   - on ISS
   # GERD
   - pt off of PPI as it may interfere with PO vanc
   # Decubitus Ulcers
   - wound care consulted; will f/u recs
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2117-6-29**] 06:23 AM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2117-6-26**] 04:15 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2117-06-30 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2117-6-29**] 11:00 PM
   -stopped heparin gtt
   -will place a line and start CVVH tomorrow
   -began having afib with intermittent trigeminy - VSS
   -d/c'ed aromatase inhibitor because c/i in ischemic heart dz - to be
   discussed with team in am
   -sputum growing pseudomonas + another GNR - holding off on changing abx
   unless febrile
   -vanc dosing changed
   -per renal recs, will give pt diuril and lasix prior to CVVH
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2117-6-27**] 11:42 PM
   Ceftriaxone - [**2117-6-29**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-6-30**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.5
C (95.9
   HR: 75 (59 - 100) bpm
   BP: 116/62(76) {85/35(32) - 133/96(100)} mmHg
   RR: 20 (16 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
                  Total In:
                                                                  2,476 mL
                                                                    150 mL
   PO:
                  TF:
                                                                  1,791 mL
   IVF:
                                                                    155 mL
   Blood products:
   Total out:
                                                                    980 mL
                                                                    132 mL
   Urine:
                                                                    980 mL
                                                                    132 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,496 mL
                                                                     18 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 29 cmH2O
   Compliance: 26.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.38/55/38/30/5
   Ve: 10.1 L/min
   PaO2 / FiO2: 76
   Physical Examination
   Unable to exam patient because she was undergoing nursing care at the
   time.
   However, I was able to listen to her lungs while she was turned on her
   side by the nurses
 the lungs sounded clear, but her breath sounds
   were decreased on the dependent side
   Labs / Radiology
   258 K/uL
   7.3 g/dL
   121 mg/dL
   1.9 mg/dL
   30 mEq/L
   4.1 mEq/L
   85 mg/dL
   101 mEq/L
   141 mEq/L
   24.5 %
   9.1 K/uL
        [image002.jpg]
                             [**2117-6-27**]  03:15 AM
                             [**2117-6-27**]  07:16 AM
                             [**2117-6-27**]  06:57 PM
                             [**2117-6-28**]  03:45 AM
                             [**2117-6-28**]  11:47 AM
                             [**2117-6-29**]  03:53 AM
                             [**2117-6-29**]  03:09 PM
                             [**2117-6-29**]  08:29 PM
                             [**2117-6-29**]  11:30 PM
                             [**2117-6-30**]  02:57 AM
   WBC
   9.4
   12.7
   12.0
   9.1
   Hct
   26.1
   25.7
   25.0
   24.5
   Plt
   [**Telephone/Fax (3) 9534**]58
   Cr
   1.9
   1.9
   1.9
   2.0
   1.9
   1.9
   TropT
   0.62
   0.61
   0.76
   TCO2
   33
   35
   34
   Glucose
   116
   139
   190
   142
   138
   121
   Other labs: PT / PTT / INR:24.6/78.3/2.4, CK / CKMB /
   Troponin-T:88/10/0.76, ALT / AST:32/66, Alk Phos / T Bili:114/0.2,
   Differential-Neuts:85.3 %, Band:0.0 %, Lymph:11.0 %, Mono:3.3 %,
   Eos:0.2 %, Lactic Acid:2.4 mmol/L, Albumin:2.4 g/dL, LDH:274 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   78 y/o female with MMP including OSA requiring trach, d CHF, AFib,
   chronic C. diff infection presents from LTAC with worsening mental
   status and failure to improve.
   # Altered Mental Status
 most likely etiology is infection
   - blood cx pending
   - sputum cx was done
 growing out pseudomonas and GNR
   - urine cx growing out citrobacter koseri and klebsiella pneumo
   - f/u repeat sputum cx
   - head CT
 no acute intracranial process
   - will keep pt on ceftriaxone at this time until all sensitivities are
   back
   # Elevated cardiac enzymes
 pt had c/o chest tightness
 EKG was done
   and unchanged from prior
   - troponin bumped to 0.7; however, CPK trending down
   - stopped heparin gtt and will restart anticoagulation after dialysis
   catheter is placed
   - pt also on a statin
   - not started on BB due to her periods of bradycardia
   - pt did develop a.fib. with trigeminy last night
 held arimidex
   # Leukocytosis
 likely stress response vs. infectious response
   - pt on ceftriaxone for urine cx with GNR
s and sputum with pseudomonas
   - WBC down to 9.1
   - continue to monitor WBC
 continue ceftriaxone until sensitivity data
   is back
   # Hx of C.diff Infection
   - C diff negative x 1 here
   - [**Hospital1 723**] records
 C.diff + in [**Month (only) 1996**] and then [**2117-5-28**]
   - consider GI consult for further options if she is positive here
   - ID Recs
 vanco 125 mg PO QID
 also provided a vanco taper for when
   pt is done with tx
   # Respiratory Failure
 currently with trach; CMV 450 x 15, 12 PEEP and
   50% FIO2
   - consider repeat ABG
   - sputum culture growing pseudomonas
   - consider CT to evaluate for lung process
   - diuretics were d/c
ed yesterday [**1-25**] to pt no UOP
 to get CVVH today
   # Diastolic Heart Failure/volume overload
   - no response to lasix or zaroxylyn
   - to get CVVH today
   # Acute on Chronic Renal Failure
   - Cr was 1.9 on admit
 same today
   - Baseline is 1.1-1.3
   - UOP was 980mL yesterday
   - continue to monitor BUN, Cr, UOP
   # A.fib
   - was in AFib on transfer but converted to sinus
   - last night, pt had a.fib with trigeminy
   - will restart coumadin after pt has her dialysis catheter placed
   - rate control PRN
   # H/o Breast Cancer
   - continue arimidex.
   # DM2
   - on ISS
   # GERD
   - pt off of PPI as it may interfere with PO vanc
   # Decubitus Ulcers
   - wound care consulted; will f/u recs
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2117-6-26**] 04:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2117-07-05 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition:

2117-07-10 11:09:00 Physician Attending Progress Note
Chief Complaint: anasarca, MS changes
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 yo female with pulm HTN/OHV trach'd since [**2089**]- admitted with
   anasarca/respiratory failure
   24 Hour Events:
 BRONCHOSCOPY - At [**2117-7-9**] 07:30 PM
 BRONCHOSCOPY - At [**2117-7-9**] 09:38 PM
 BRONCHOSCOPY - At [**2117-7-9**] 10:00 PM
   Began bleeding from trach site- ENT did 'scope with no active bleeding
      Thoracics: bronchoscopy with no bleeding source, though bleed in
   posterior pharynx
      CTA neck/chest/abdomen (due to leukocytosis): no bleeding source
   No source identified, though possible lung source
   Received blood transfusion
   Started on EPO
   Dopa infusion increased
   History obtained from [**Hospital 85**] Medical records, ICU housestaff
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2117-7-7**] 12:00 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Insulin - Regular - 1 units/hour
   KCl (CRRT) - 3 mEq./hour
   Dopamine - 12 mcg/Kg/min
   Other ICU medications:
   Vecuronium - [**2117-7-9**] 10:10 PM
   Famotidine (Pepcid) - [**2117-7-10**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2117-7-10**] 08:00 AM
   Other medications:
   alb/atrovent, lidocaine patch, nystatin, ASA, lipitor, colace,
   chlorhexidine,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-7-10**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.9
C (96.6
   HR: 87 (77 - 102) bpm
   BP: 95/44(59) {82/38(51) - 138/62(86)} mmHg
   RR: 20 (9 - 56) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 118 kg (admission): 148.8 kg
   Height: 66 Inch
             Total In:
                                                                  8,094 mL
                                                                  3,280 mL
   PO:
             TF:
                                                                    586 mL
                                                                    218 mL
   IVF:
                                                                  6,588 mL
                                                                  2,941 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  6,646 mL
                                                                  3,257 mL
   Urine:
                                                                     75 mL
                                                                     65 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  1,448 mL
                                               (net 1.5 liter positive) mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 15
   RR (Spontaneous): 5
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Hemodynamic Instability
   PIP: 28 cmH2O
   Plateau: 26 cmH2O
   SpO2: 99%
   ABG: 7.41/52/76.[**Numeric Identifier 128**]/32/6
   Ve: 7.3 L/min
   PaO2 / FiO2: 127
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Bowel sounds present
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Normal
   Labs / Radiology
   6.9 g/dL
   221 K/uL
   72 mg/dL
   1.0 mg/dL
   32 mEq/L
   3.6 mEq/L
   16 mg/dL
   91 mEq/L
   135 mEq/L
   22.1 %
   18.0 K/uL
        [image002.jpg]
                             [**2117-7-9**]  09:58 AM
                             [**2117-7-9**]  10:24 AM
                             [**2117-7-9**]  05:04 PM
                             [**2117-7-9**]  05:23 PM
                             [**2117-7-9**]  09:01 PM
                             [**2117-7-10**]  01:24 AM
                             [**2117-7-10**]  01:37 AM
                             [**2117-7-10**]  06:16 AM
                             [**2117-7-10**]  08:05 AM
                             [**2117-7-10**]  08:19 AM
   WBC
   15.6
   18.0 Increased
   Hct
   22.2
   22.4
   22.1
   Plt
   215
   221
   Cr
   0.9
   1.0
   TCO2
   35
   39
   30
   36
   34
   Glucose
   158
   155
   144
   137
   72
   Other labs: PT / PTT / INR:14.2/35.4/1.2, CK / CKMB /
   Troponin-T:88/10/0.76, ALT / AST:34/41, Alk Phos / T Bili:121/0.7,
   Differential-Neuts:81.0 %, Band:0.0 %, Lymph:11.0 %, Mono:7.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:3.1
   g/dL, LDH:363 IU/L, Ca++:9.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Fluid analysis / Other labs: 7.39/57/68
   Imaging: CXR: clearer, left HD not well visualized
   Microbiology: Urine cultures yeast
   CDiff pending
   Bd Cx NGTD
   Assessment and Plan
 HEMATEMESIS (UPPER GI BLEED, UGIB)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERATION IN NUTRITION
 HYPOTHERMIA
 ANEMIA, CHRONIC
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEART DISEASE, OTHER
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   76 yo female with pulm HTN/OHV on trach admitted with anasarca/FTT- on
   CVVH but with subsequent hypotension on dopamine infusion.
   1.       Respiratory failure: Has made some progress with ~18 Liters
   removed. Remains ventilator dependent.  Continue AC ventilation with
   FiO2 wean as feasible.
   2.       Leukocytosis/CDiff: still increasing with low grade fevers.
   Cultures pending, f/u CT results. Given worsening leukocytosis and
   increased pressor needs with  concern for septic physiology, will start
   broad spectrum abx with vanco/merepenem
   3.       Hypotension: on dopamine infusion to maintain MAP
s while
   getting CVVH
   4.       Hyperglycemia: on insulin gtt
 will review BG
s and attempt
   to transition to SQ
   5.       GI bleed/acute blood loss anemia- suspected on basis of  Hct
   drop with melana, last transfused [**7-5**]. continue to follow Hct
s. On H2
   blocker.
   6.       Acute renal failure: receiving CVVH
   7.       Tracheal bleeding: no further bleeding. Source not identified
   with scope and CT
s. Will touch base with thoracics.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2117-7-10**] 04:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2117-6-26**] 04:15 PM
   Dialysis Catheter - [**2117-6-30**] 08:00 PM
   Arterial Line - [**2117-6-30**] 11:21 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: H2 blocker (not PPI due to being on Vanc)
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2117-07-11 10:48:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 yo female with severe pHTN/OHV, chronically trach'd
   24 Hour Events:
 BLOOD CULTURED - At [**2117-7-10**] 12:00 PM
   from HD line
   *Transfused 1 unit blood
   *Started on Vanc and Cefipime
   History obtained from Medical records, ICU housestaff
   Patient unable to provide history: intubated
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2117-7-10**] 04:45 PM
   Cefipime - [**2117-7-11**] 02:52 AM
   Vancomycin - [**2117-7-11**] 08:00 AM
   Infusions:
   KCl (CRRT) - 3 mEq./hour
   Dopamine - 7 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2117-7-11**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2117-7-11**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-7-11**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.5
C (95.9
   HR: 88 (77 - 100) bpm
   BP: 110/48(67) {75/34(48) - 131/59(84)} mmHg
   RR: 18 (9 - 24) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 117 kg (admission): 148.8 kg
   Height: 66 Inch
             Total In:
                                                                  9,888 mL
                                                                  4,625 mL
   PO:
             TF:
                                                                    835 mL
                                                                    432 mL
   IVF:
                                                                  8,408 mL
                                                                  4,134 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                 10,552 mL
                                                                  4,967 mL
   Urine:
                                                                     95 mL
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -664 mL
                                                                   -342 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 15
   RR (Spontaneous): 3
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 29 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 97%
   ABG: 7.44/48/64/30/6
   Ve: 8.7 L/min
   PaO2 / FiO2: 128
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, trach'd
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: No(t) Cyanosis, No(t) Clubbing, diffuse anasarca
   Musculoskeletal: Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Tactile stimuli,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   7.5 g/dL
   207 K/uL
   214 mg/dL
   0.9 mg/dL
   30 mEq/L
   3.7 mEq/L
   14 mg/dL
   90 mEq/L
   133 mEq/L
   23.4 %
   11.4 K/uL
        [image002.jpg]
                             [**2117-7-10**]  08:05 AM
                             [**2117-7-10**]  08:19 AM
                             [**2117-7-10**]  02:14 PM
                             [**2117-7-10**]  02:23 PM
                             [**2117-7-10**]  04:35 PM
                             [**2117-7-10**]  04:43 PM
                             [**2117-7-10**]  05:39 PM
                             [**2117-7-10**]  09:49 PM
                             [**2117-7-11**]  03:34 AM
                             [**2117-7-11**]  10:03 AM
   WBC
   11.4 (was 18)
   Hct
   21.1
   23.4
   Plt
   207
   Cr
   0.9
   0.8
   0.9
   TCO2
   34
   37
   36
   35
   34
   Glucose
   72
   171
   145
   214
   Other labs: PT / PTT / INR:14.2/35.4/1.2, CK / CKMB /
   Troponin-T:88/10/0.76, ALT / AST:34/41, Alk Phos / T Bili:121/0.7,
   Differential-Neuts:81.0 %, Band:0.0 %, Lymph:11.0 %, Mono:7.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:3.1
   g/dL, LDH:363 IU/L, Ca++:8.9 mg/dL, Mg++:1.6 mg/dL, PO4:2.5 mg/dL
   Imaging: CXR : CMright pleural effusion. Unchanged from prev; iously
   Microbiology: Bd cultures since [**7-5**] NGTD
   Assessment and Plan
 HEMATEMESIS (UPPER GI BLEED, UGIB)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERATION IN NUTRITION
 HYPOTHERMIA
 ANEMIA, CHRONIC
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEART DISEASE, OTHER
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   76 yo female with pulm HTN/trach and rrecurrent Cdiff with progressive
   anasarca and acute on chronic respiratory failure. Undergoing
   CVVH/fluid removal in an attempt to ultimatley become
   ventilator-independent during the day. so far weight down 30kg since
   admission, but no change in vent requirements with BP more recently
   limiting fluid removal.
   1. Fevers-
   started on Vanc/Cefipime for presumptive VAP- has Pseudomonas growing
   from cultures. WBC is down this morning. will complete 8 day course
   2. Hypotension- decreased pressor requirement. Will continue dopamine
   to maintain MAP>60
   3. Recurrent Cdiff- on po vancomycin
   4. Acute respiratory failure: Pt currently on AC ventilation and PEEP
   of 15. pO2's have been too low to allow for PEEP reduction- will
   re-check ABG. Otherwise, continue mechanical ventilation
   5. Recent trach bleed- no further active bleeding. continue to trend
   crits
   6. Renal failure: On CVVH, but have been unable to remove much fluid
   recently due to low BP's.
   7. DM- transitioned to SQ insulin yesterday but with high BG's
   consistently in the 200's. Will re-adjust standing doses.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2117-7-11**] 05:00 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2117-6-26**] 04:15 PM
   Dialysis Catheter - [**2117-6-30**] 08:00 PM
   Arterial Line - [**2117-6-30**] 11:21 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2117-07-13 11:12:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   decreased PEEP
   some decreased vasopressor requirement
   Patient unable to provide history: Sedated
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2117-7-10**] 04:45 PM
   Cefipime - [**2117-7-13**] 04:02 AM
   Vancomycin - [**2117-7-13**] 08:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Dopamine - 6.5 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-7-13**] 08:00 AM
   Famotidine (Pepcid) - [**2117-7-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-7-13**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.7
C (96.3
   HR: 90 (79 - 96) bpm
   BP: 111/45(65) {86/38(53) - 115/57(73)} mmHg
   RR: 21 (10 - 34) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 117 kg (admission): 148.8 kg
   Height: 66 Inch
             Total In:
                                                                  9,778 mL
                                                                  4,700 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    548 mL
   IVF:
                                                                  8,578 mL
                                                                  4,092 mL
   Blood products:
   Total out:
                                                                  9,377 mL
                                                                  5,548 mL
   Urine:
                                                                     50 mL
                                                                     41 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    401 mL
                                                                   -848 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 15
   RR (Spontaneous): 8
   PEEP: 13 cmH2O
   FiO2: 50%
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.43/51/49/32/7
   Ve: 10 L/min
   PaO2 / FiO2: 98
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Arterial line), (Left radial
   pulse: Present), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: clear anteriorly
   Abdominal: Soft, Non-tender, Obese
   Extremities: left wrist ecchymosis and ?tenderness
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Sedated, Tone: Not assessed
   Labs / Radiology
   7.0 g/dL
   190 K/uL
   139 mg/dL
   0.7 mg/dL
   32 mEq/L
   3.8 mEq/L
   11 mg/dL
   91 mEq/L
   133 mEq/L
   21.5 %
   14.3 K/uL
        [image002.jpg]
                             [**2117-7-12**]  06:30 AM
                             [**2117-7-12**]  12:23 PM
                             [**2117-7-12**]  12:41 PM
                             [**2117-7-12**]  05:46 PM
                             [**2117-7-12**]  06:02 PM
                             [**2117-7-12**]  11:38 PM
                             [**2117-7-13**]  05:53 AM
                             [**2117-7-13**]  06:04 AM
                             [**2117-7-13**]  06:54 AM
                             [**2117-7-13**]  10:45 AM
   WBC
   14.3
   Hct
   21.5
   Plt
   190
   Cr
   0.8
   0.7
   TCO2
   34
   37
   35
   30
   35
   35
   Glucose
   213
   139
   Other labs: PT / PTT / INR:14.2/35.4/1.2, CK / CKMB /
   Troponin-T:88/10/0.76, ALT / AST:34/41, Alk Phos / T Bili:121/0.7,
   Differential-Neuts:81.0 %, Band:0.0 %, Lymph:11.0 %, Mono:7.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:3.1
   g/dL, LDH:363 IU/L, Ca++:9.2 mg/dL, Mg++:1.5 mg/dL, PO4:1.9 mg/dL
   Imaging: CXR pending
   Assessment and Plan
 HEMATEMESIS (UPPER GI BLEED, UGIB)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERATION IN NUTRITION
 HYPOTHERMIA
 ANEMIA, CHRONIC
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEART DISEASE, OTHER
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   Respiratory Failure
   SpO2 is 99% but pO2 quite low --> check co-oximetry to exclude CO-Hb
   CXR now to exclude anatomic issues/new infiltrate
   Further manipulations based on these data
   CVVH for negative 1.5 today, even if increased vasopressors required
   Shock
 complex hemodynamics.  Previously had bradycardia with
   levophed.  Hopefully decrease in PEEP will assist.  Assess response and
   consider other manipulations.
   Fevers (improved): ?VAP
   Await final culture results from sputum.  Continue current ABX for now
   (Vanc/Cefepime for presumptive VAP with Pseudomonas growing from older
   cultures).  If cx negative, may need to evaluate lines.
   C diff
 recurrent and intractable.  Maintain on oral vanco until two
   weeks after last conventional ABX.
   Recent trach bleed - no further active bleeding. continue to trend
   crits
   Other issues per ICU team note today.
   She is critically ill: 40 minutes
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2117-7-13**] 12:04 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2117-6-26**] 04:15 PM
   Dialysis Catheter - [**2117-6-30**] 08:00 PM
   Arterial Line - [**2117-6-30**] 11:21 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   Addendum
   7p
   Co-oximetry excluded CO-Hb but SaO2 89% (i.e. reasonably adequate).
   Increased pO2 with PEEP and FiO2.
   Substantial volume removal today with CVVH.
   Met with family and reviewed current issues and course.  All questions
   answered.
   45 minutes

2117-07-14 10:27:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: resp failure, shock, ARF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Improved oxygenation with increased PEEP and FiO2
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2117-7-14**] 04:29 AM
   Vancomycin - [**2117-7-14**] 08:00 AM
   Infusions:
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-7-13**] 04:00 PM
   Other medications:
   cefepime, H2B, vanco oral, bowel reg, CHG, statin, ASA, lidoderm, vanco
   IV, SQI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-7-14**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 93 (76 - 101) bpm
   BP: 104/44(61) {79/32(48) - 128/57(79)} mmHg
   RR: 23 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 117 kg (admission): 148.8 kg
   Height: 66 Inch
             Total In:
                                                                 10,153 mL
                                                                  4,339 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    508 mL
   IVF:
                                                                  8,798 mL
                                                                  3,782 mL
   Blood products:
   Total out:
                                                                 12,062 mL
                                                                  5,144 mL
   Urine:
                                                                    101 mL
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,909 mL
                                                                   -805 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 15
   RR (Spontaneous): 9
   PEEP: 15 cmH2O
   FiO2: 60%
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: 7.44/48/94.[**Numeric Identifier 128**]/32/6
   Ve: 9.1 L/min
   PaO2 / FiO2: 157
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   6.3 g/dL
   212 K/uL
   157 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.9 mEq/L
   10 mg/dL
   91 mEq/L
   135 mEq/L
   20.3 %
   14.4 K/uL
        [image002.jpg]
                             [**2117-7-13**]  12:39 PM
                             [**2117-7-13**]  02:10 PM
                             [**2117-7-13**]  04:53 PM
                             [**2117-7-13**]  04:57 PM
                             [**2117-7-13**]  05:05 PM
                             [**2117-7-13**]  11:37 PM
                             [**2117-7-14**]  12:03 AM
                             [**2117-7-14**]  12:06 AM
                             [**2117-7-14**]  05:56 AM
                             [**2117-7-14**]  06:12 AM
   WBC
   14.4
   Hct
   21.8
   20.3
   Plt
   212
   Cr
   0.8
   0.8
   TCO2
   35
   32
   36
   34
   37
   34
   Glucose
   154
   143
   157
   Other labs: PT / PTT / INR:14.2/35.4/1.2, CK / CKMB /
   Troponin-T:88/10/0.76, ALT / AST:34/41, Alk Phos / T Bili:121/0.7,
   Differential-Neuts:81.0 %, Band:0.0 %, Lymph:11.0 %, Mono:7.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:0.7 mmol/L, Albumin:3.1
   g/dL, LDH:363 IU/L, Ca++:9.3 mg/dL, Mg++:1.3 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Respiratory Failure
   Improved oxygenation
   Unusual difference between arms with pO2
 will follow art line and
   double-check if pO2 low
   Wean FiO2 today
   CVVH for negative 1.5
 2.0 today, even if increased vasopressors
   required
   Shock
   Complex hemodynamics.  Previously had bradycardia with levophed.
   Will transfuse today and consider transition to vasopressin in next day
   or two
   Fevers (improved)
   ?VAP
   Sputum remains polyfloral.  Will commit to 8 day course.
   Blood cultures remain negative.
   Ask hand to see her for left wrist today
   C diff
   Recurrent and intractable.  Maintain on oral vanco until two weeks
   after last conventional ABX.
   Recent trach bleed
   No further active bleeding. continue to trend crits
   Left wrist
   Unclear to me why she is so tender.  Consult hand surgery.
   Other issues per ICU team note today.
   She is critically ill: 35 minutes
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2117-7-14**] 12:02 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2117-6-26**] 04:15 PM
   Dialysis Catheter - [**2117-6-30**] 08:00 PM
   Arterial Line - [**2117-6-30**] 11:21 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: Citrate)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   family meeting yesterday
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2117-07-17 13:56:00 Physician Attending Progress Note
Chief Complaint: Repiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   CCVH off -pt now thought to be dry
   24 Hour Events:
   Bleeding from sq heparin injection site
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2117-7-16**] 04:00 PM
   Vancomycin - [**2117-7-17**] 08:41 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2117-7-16**] 02:45 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-7-17**] 01:56 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 84 (68 - 115) bpm
   BP: 91/40(54) {78/29(50) - 129/55(81)} mmHg
   RR: 22 (16 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 109.6 kg (admission): 148.8 kg
   Height: 66 Inch
           Total In:
                                                                  9,145 mL
                                                                  3,706 mL
   PO:
           TF:
                                                                  1,200 mL
                                                                    686 mL
   IVF:
                                                                  7,785 mL
                                                                  2,357 mL
   Blood products:
   613 mL
   Total out:
                                                                  9,998 mL
                                                                  1,850 mL
   Urine:
                                                                    115 mL
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -853 mL
                                                                  1,856 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 32 cmH2O
   Compliance: 26.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.38/57/56/32/6
   Ve: 8.6 L/min
   PaO2 / FiO2: 112
   Physical Examination
   General Appearance: intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   7.1 g/dL
   255 K/uL
   164 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.7 mEq/L
   13 mg/dL
   92 mEq/L
   135 mEq/L
   22.6 %
   14.0 K/uL
         [image002.jpg]
                             [**2117-7-16**]  05:44 AM
                             [**2117-7-16**]  11:35 AM
                             [**2117-7-16**]  11:45 AM
                             [**2117-7-16**]  12:28 PM
                             [**2117-7-16**]  05:56 PM
                             [**2117-7-16**]  06:15 PM
                             [**2117-7-16**]  10:29 PM
                             [**2117-7-17**]  12:12 AM
                             [**2117-7-17**]  05:21 AM
                             [**2117-7-17**]  05:37 AM
   WBC
   14.0
   Hct
   24.7
   22.6
   Plt
   255
   Cr
   0.8
   0.8
   TCO2
   34
   35
   34
   35
   36
   35
   35
   Glucose
   174
   154
   160
   166
   164
   Other labs: PT / PTT / INR:14.2/36.6/1.2, CK / CKMB /
   Troponin-T:88/10/0.76, ALT / AST:34/41, Alk Phos / T Bili:121/0.7,
   Differential-Neuts:81.0 %, Band:0.0 %, Lymph:7.0 %, Mono:12.0 %,
   Eos:0.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.1
   g/dL, LDH:363 IU/L, Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   76 yo woman with long-term tracheostomy, with acute on chronic
   respiratory failure.
   1.       Respiratory Failure: Pt has been intolerant of decreases in
   level of vent support.  Have now made patient close to dry with CVVH
   will try decreasing PEEP today. If pt tolerates small changes, can
   consider change to PSV.
   2.       Renal Failure: Holding further CVVH for now.
   3.       Anemia: Has had blood loss from guiaic pos stools and sq
   heparin site.  Will rechaeck Hct and transfuse as needed.
   4.       Hypotension/Shock: Remains on neosynephrine
   Remainder of issues per resident note
   Pt is critical ill. Time spent 35 minutes.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2117-7-16**] 11:45 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2117-6-26**] 04:15 PM
   Dialysis Catheter - [**2117-6-30**] 08:00 PM
   Arterial Line - [**2117-6-30**] 11:21 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2117-07-22 08:57:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: resp failure, shock, ARF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Hemodynamic and respiratory decompensation yesterday.  ABX and
   antifungals started.  Cultures including miniBAL (c/b hemoptysis).  Art
   line resited.  Maxed
 BLOOD CULTURED - At [**2117-7-21**] 12:30 PM
 STOOL CULTURE - At [**2117-7-21**] 12:45 PM
 BLOOD CULTURED - At [**2117-7-21**] 01:45 PM
 SPUTUM CULTURE - At [**2117-7-21**] 01:45 PM
 ARTERIAL LINE - STOP [**2117-7-21**] 03:00 PM
 EKG - At [**2117-7-21**] 03:00 PM
 ARTERIAL LINE - START [**2117-7-21**] 03:00 PM
 TRANSTHORACIC ECHO - At [**2117-7-21**] 04:40 PM
 URINE CULTURE - At [**2117-7-21**] 06:00 PM
 BAL FLUID CULTURE - At [**2117-7-22**] 01:00 AM
   bright red blood from trach s/p mini bronch
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2117-7-21**] 04:45 PM
   Ciprofloxacin - [**2117-7-21**] 05:00 PM
   Micafungin - [**2117-7-21**] 08:30 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2117-7-22**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2117-7-22**] 08:00 AM
   Other medications:
   statin, bowel reg, SQH, vanco NG, CHG, epo, SQI, lidoderm, MDI's, H2B,
   cipro, micafungin, cefepime, vaso, vanco by level
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-7-22**] 08:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.5
   HR: 78 (29 - 102) bpm
   BP: 121/56(75) {71/32(44) - 166/76(111)} mmHg
   RR: 21 (11 - 27) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 106.7 kg (admission): 110 kg
   Height: 66 Inch
             Total In:
                                                                  2,465 mL
                                                                    925 mL
   PO:
             TF:
                                                                  1,411 mL
                                                                    553 mL
   IVF:
                                                                    884 mL
                                                                    283 mL
   Blood products:
   Total out:
                                                                     45 mL
                                                                     15 mL
   Urine:
                                                                     45 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,420 mL
                                                                    910 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (340 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, Hemodynamic Instability
   PIP: 29 cmH2O
   Plateau: 23 cmH2O
   SpO2: 97%
   ABG: 7.34/59/65/27/3
   Ve: 7.7 L/min
   PaO2 / FiO2: 108
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: no edema, Left: no edema
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Tone: Normal, more alert than yesterday
   Labs / Radiology
   8.1 g/dL
   271 K/uL
   134 mg/dL
   3.0 mg/dL
   27 mEq/L
   4.8 mEq/L
   45 mg/dL
   90 mEq/L
   129 mEq/L
   25.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2117-7-20**]  05:39 PM
                             [**2117-7-20**]  05:46 PM
                             [**2117-7-20**]  09:47 PM
                             [**2117-7-21**]  04:02 AM
                             [**2117-7-21**]  04:10 AM
                             [**2117-7-21**]  01:18 PM
                             [**2117-7-21**]  03:25 PM
                             [**2117-7-21**]  04:59 PM
                             [**2117-7-22**]  04:00 AM
                             [**2117-7-22**]  04:17 AM
   WBC
   7.8
   9.4
   Hct
   27.0
   26.6
   26
   25.9
   Plt
   217
   271
   Cr
   2.7
   2.7
   3.0
   TCO2
   33
   33
   31
   33
   32
   32
   33
   Glucose
   84
   90
   134
   Other labs: PT / PTT / INR:15.5/33.3/1.4, CK / CKMB /
   Troponin-T:88/10/0.76, ALT / AST:20/21, Alk Phos / T Bili:98/0.3,
   Differential-Neuts:75.0 %, Band:0.0 %, Lymph:16.0 %, Mono:9.0 %,
   Eos:0.0 %, Fibrinogen:489 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:3.1
   g/dL, LDH:363 IU/L, Ca++:9.2 mg/dL, Mg++:2.3 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   78-year-old woman with complex pulmonary disease (PHTN, OSA, etc.)
   admitted with massive volume overload and respiratory failure.  She had
   improved until yesterday (off pressors, on trach mask x 24 hours) but
   developed hypothermia, shock, and hypoxemia yesterday.  Overall,
   suspect that this represents infection and septic shock though cultures
   are pending.  Her other acute issue is that she has hemoptysis of
   moderate volume (100-200 cc).
   SHOCK, PRESUMPTIVELY SEPTIC
          Follow cultures
          Continue broad empiric antibiotics and antifungals while
   awaiting cultures (d/c if negative on Sunday).
          Source remains uncertain at this point.  Will image abdomen
   today with CT to exclude abscess and small perforation.
          Try off vasopressin
   RESPIRATORY FAILURE
          Maintain support while in shock
   RENAL FAILURE
          Resumed CVVHD today
   HEMOPTYSIS
          Suspect this relates to miniBAL.
          Will bronch to assess for ongoing bleeding.
   DELIRIUM / ENCEPHALOPATHY
          Improved somewhat today
          Multiple potential etiologies related to critical illness
   C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
          On oral vanco
 continue until two weeks after antibiotics
   d/c
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2117-7-21**] 03:48 PM 65 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2117-7-20**] 03:30 PM
   PICC Line - [**2117-7-20**] 04:16 PM
   Arterial Line - [**2117-7-21**] 03:00 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: H2B
   VAP: HOB, etc.
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 40 minutes

2117-07-23 09:36:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Net positive 1L yesterday.  [**Last Name (un) **] yesterday showed no active bleeding.
   CT chest/abd/pelvis with abcess or fluid collection.
   24 Hour Events:
 BRONCHOSCOPY - At [**2117-7-22**] 10:00 AM
 BLOOD CULTURED - At [**2117-7-23**] 02:44 AM
   picc line
 BLOOD CULTURED - At [**2117-7-23**] 04:00 AM
   a-line
   History obtained from icu team
   Patient unable to provide history: Sedated
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2117-7-22**] 04:00 PM
   Ciprofloxacin - [**2117-7-22**] 06:00 PM
   Vancomycin - [**2117-7-22**] 06:00 PM
   Micafungin - [**2117-7-22**] 07:50 PM
   Infusions:
   KCl (CRRT) - 2 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Dextrose 50% - [**2117-7-22**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2117-7-23**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-7-23**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.9
C (96.6
   HR: 92 (67 - 95) bpm
   BP: 101/48(65) {75/39(50) - 114/56(73)} mmHg
   RR: 20 (11 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 106.7 kg (admission): 110 kg
   Height: 66 Inch
             Total In:
                                                                  4,071 mL
                                                                  3,607 mL
   PO:
             TF:
                                                                  1,365 mL
                                                                    602 mL
   IVF:
                                                                  2,561 mL
                                                                  2,946 mL
   Blood products:
   Total out:
                                                                  2,978 mL
                                                                  4,145 mL
   Urine:
                                                                     42 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,093 mL
                                                                   -538 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 23 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.34/48/86.[**Numeric Identifier 96**]/24/0
   Ve: 9.8 L/min
   PaO2 / FiO2: 145
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered anteriorly)
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Noxious
   stimuli, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   195 K/uL
   160 mg/dL
   2.4 mg/dL
   24 mEq/L
   4.3 mEq/L
   33 mg/dL
   93 mEq/L
   131 mEq/L
   25.9 %
   8.4 K/uL
        [image002.jpg]
                             [**2117-7-22**]  04:17 AM
                             [**2117-7-22**]  01:04 PM
                             [**2117-7-22**]  03:28 PM
                             [**2117-7-22**]  03:47 PM
                             [**2117-7-22**]  06:20 PM
                             [**2117-7-22**]  07:59 PM
                             [**2117-7-22**]  09:50 PM
                             [**2117-7-22**]  09:54 PM
                             [**2117-7-23**]  04:00 AM
                             [**2117-7-23**]  04:02 AM
   WBC
   9.7
   8.4
   Hct
   25.3
   25.2
   25.3
   25.9
   Plt
   226
   195
   Cr
   3.2
   2.7
   2.4
   TCO2
   33
   31
   30
   22
   27
   27
   Glucose
   42
   128
   160
   Other labs: PT / PTT / INR:16.0/37.4/1.4, CK / CKMB /
   Troponin-T:88/10/0.76, ALT / AST:20/21, Alk Phos / T Bili:98/0.3,
   Differential-Neuts:75.0 %, Band:0.0 %, Lymph:16.0 %, Mono:9.0 %,
   Eos:0.0 %, Fibrinogen:489 mg/dL, Lactic Acid:3.2 mmol/L, Albumin:3.1
   g/dL, LDH:363 IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   1. Septic shock: Off pressors.  Awaiting results of cultures.  Cont
   vanc/cefepime/cipro/micafungin.  D/C abx if cultures negative.
   2. Respiratory Failure: Try pressure support again today.
   3. Volume overload: net negative 1L goal today
   4. Renal Failure: Cont CVVH
   Assessment and Plan
   78-year-old woman with complex pulmonary disease (PHTN, OSA, etc.)
   admitted with massive volume overload and respiratory failure.  She had
   improved until yesterday (off pressors, on trach mask x 24 hours) but
   developed hypothermia, shock, and hypoxemia yesterday.  Overall,
   suspect that this represents infection and septic shock though cultures
   are pending.  Her other acute issue is that she has hemoptysis of
   moderate volume (100-200 cc).
   SHOCK, PRESUMPTIVELY SEPTIC
          Follow cultures
          Continue broad empiric antibiotics and antifungals while
   awaiting cultures (d/c if negative on Sunday).
          Source remains uncertain at this point.  Will image abdomen
   today with CT to exclude abscess and small perforation.
          Try off vasopressin
   RESPIRATORY FAILURE
          Maintain support while in shock
   RENAL FAILURE
          Resumed CVVHD today
   HEMOPTYSIS
          Suspect this relates to miniBAL.
          Will bronch to assess for ongoing bleeding.
   DELIRIUM / ENCEPHALOPATHY
          Improved somewhat today
          Multiple potential etiologies related to critical illness
   C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
          On oral vanco
 continue until two weeks after antibiotics
   d/c
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2117-7-22**] 12:00 PM 65 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2117-7-20**] 03:30 PM
   PICC Line - [**2117-7-20**] 04:16 PM
   Arterial Line - [**2117-7-21**] 03:00 PM
   20 Gauge - [**2117-7-22**] 09:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2117-07-26 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   MAPs dropped to 30s with SBPs of 60's and HR transiently dropping to
   40's, so levophed started. No source of infection identified, so d/c'd
   all abx today except micafungin to cover yeast in urine.  Started PO
   vanco to cover chronic c diff infection per ID plan. Still awaiting
   speciation of yeast. Called IR for AM placement of HD catheter
   tomorrow. NPO and heparin held for procedure tomorrow.  ABGs and HCT
   stable. Intermittently hypoglycemic.
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2117-7-24**] 04:40 PM
   Ciprofloxacin - [**2117-7-24**] 06:17 PM
   Micafungin - [**2117-7-24**] 08:43 PM
   Vancomycin - [**2117-7-26**] 02:16 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2117-7-25**] 08:21 AM
   Heparin Sodium (Prophylaxis) - [**2117-7-25**] 05:48 PM
   Dextrose 50% - [**2117-7-25**] 06:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-7-26**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.2
   HR: 78 (56 - 94) bpm
   BP: 115/53(76) {60/25(35) - 122/54(76)} mmHg
   RR: 18 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108.9 kg (admission): 110 kg
   Height: 66 Inch
             Total In:
                                                                  1,749 mL
                                                                     42 mL
   PO:
             TF:
                                                                  1,567 mL
                                                                      5 mL
   IVF:
                                                                     32 mL
                                                                     37 mL
   Blood products:
   Total out:
                                                                     15 mL
                                                                     20 mL
   Urine:
                                                                     15 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,734 mL
                                                                     22 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 426 (426 - 517) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 19 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.32/52/69/25/0
   Ve: 6.9 L/min
   PaO2 / FiO2: 115
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   237 K/uL
   7.8 g/dL
   67 mg/dL
   2.9 mg/dL
   25 mEq/L
   5.2 mEq/L
   35 mg/dL
   95 mEq/L
   131 mEq/L
   25.9 %
   9.8 K/uL
        [image002.jpg]
                             [**2117-7-24**]  05:02 AM
                             [**2117-7-24**]  12:46 PM
                             [**2117-7-24**]  03:58 PM
                             [**2117-7-24**]  04:42 PM
                             [**2117-7-25**]  04:23 AM
                             [**2117-7-25**]  05:31 AM
                             [**2117-7-25**]  05:30 PM
                             [**2117-7-25**]  05:37 PM
                             [**2117-7-26**]  03:56 AM
                             [**2117-7-26**]  04:30 AM
   WBC
   9.8
   9.8
   Hct
   26
   25.3
   24.2
   25.1
   25.9
   Plt
   231
   237
   Cr
   2.5
   2.8
   2.9
   TCO2
   29
   27
   29
   29
   29
   28
   Glucose
   104
   91
   30
   67
   Other labs: PT / PTT / INR:15.6/33.5/1.4, CK / CKMB /
   Troponin-T:88/10/0.76, ALT / AST:20/21, Alk Phos / T Bili:98/0.3,
   Differential-Neuts:75.0 %, Band:0.0 %, Lymph:16.0 %, Mono:9.0 %,
   Eos:0.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:3.1
   g/dL, LDH:363 IU/L, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   Assessment and Plan: 78 F with MMP including OSA requiring trach, d
   CHF, AFib, chronic C. diff infection presents from LTAC with worsening
   mental status and failure to improve.
   .
   ALTERED MENTAL STATUS: Progressive worseing mental status has been a
   slow process and likely related to infection.  However, her normal WBC
   argues against infection.  Could also consider hypoxia as a potential
   cause.  Patient also has a history of stroke, and further stroke could
   explain presentation.  Exam is non-focal however.
   - head CT.  Could consider repeating with contrast, although concerning
   given ARF.  An MRI could be helpful, but patient unlikely to fit.
   - sputum, blood, urine, stool cultures
   - follow electrolytes
   .
   C DIFFICILE INFECTION: Patient has had severe malnutrition from
   longstanding C. diff infection that has perisisted despite PO
   Vancomycin.
   - continue PO Vanc
   - GI consult, regarding other interventions including IVIG
   - stop PPI
   .
   RESPIRATORY FAILURE: Patient with severe obstructive apnea and obesity
   hypoventilation.  She has been trach dependent since [**2087**].  [**Month (only) 60**] have
   increasing restriction from anisarca and volume overload from diastolic
   failure.  BNP and CXR c/w volume overload.  Pulmonary hypertension seen
   previosly may be related to LV failure and chornic hypoventilation.
   Also with abnormal sputum appearence.  Would avoid pulmonary
   vasodilator given potential for percipitating diastolic decompensation.
   - sputum culture
   - consider CT chest to eval for PNA
   - diuresis with Lasix 40 IV
   - follow ABG
   .
   DIASTOLIC HEART FAILURE: Volume overloaded on admission.
   - diuresis
   - rate control as needed.
   - consider restarting statin
   .
   ACUTE ON CHRONIC RENAL FAILURE: Cr on admission 1.9.  was 1.1-2.2 since
   [**Month (only) 1996**], prior had been around 1.3.
   .
   ATRIAL FIBRILLATION:  Was in AFib on transfer but converted to sinus.
   - Continue coumadin with goal INR [**1-26**]
   - rate control as needed, currently with HR in 60s.
   .
   H/O BREAST CANCER: Continue arimidex.
   .
   Type 2 Diabetes Mellitus: Start insulin sliding scale
   .
   GERD: Stable on PPI.
   .
   Hyperlipidemia: Stable on simvastatin
   .
   Stage II sacral decub: Monitor.
   .
   FEN: No IVF, replete electrolytes, regular diet
   .
   Prophylaxis: theraputic INR
   .
   Access: midline
   .
   Code: full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2117-7-20**] 04:16 PM
   Arterial Line - [**2117-7-21**] 03:00 PM
   20 Gauge - [**2117-7-22**] 09:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2117-07-27 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ANGIOGRAPHY - At [**2117-7-26**] 04:57 PM
   to IR for tunnelled HD line
 DIALYSIS CATHETER - START [**2117-7-27**] 12:00 AM
   restarted on levophed for SBP in 70's, up to levophed 0.07mcg/kg/min
   patient received line in IR, started CVVHD - plan to -100cc/hour
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2117-7-24**] 04:40 PM
   Ciprofloxacin - [**2117-7-24**] 06:17 PM
   Micafungin - [**2117-7-26**] 08:00 PM
   Vancomycin - [**2117-7-27**] 02:08 AM
   Infusions:
   Norepinephrine - 0.07 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2117-7-26**] 10:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-7-27**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 87 (56 - 87) bpm
   BP: 103/40(62) {77/31(46) - 129/75(82)} mmHg
   RR: 19 (10 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108.9 kg (admission): 110 kg
   Height: 66 Inch
             Total In:
                                                                  1,059 mL
                                                                  2,488 mL
   PO:
             TF:
                                                                     65 mL
                                                                    368 mL
   IVF:
                                                                    759 mL
                                                                  2,119 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                  2,331 mL
   Urine:
                                                                     40 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    359 mL
                                                                    162 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 420 (396 - 469) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 80
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.29/54/82.[**Numeric Identifier 96**]/24/-1
   Ve: 7.2 L/min
   PaO2 / FiO2: 166
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   275 K/uL
   7.8 g/dL
   133 mg/dL
   2.6 mg/dL
   24 mEq/L
   4.9 mEq/L
   28 mg/dL
   97 mEq/L
   133 mEq/L
   26.1 %
   9.1 K/uL
        [image002.jpg]
                             [**2117-7-25**]  05:37 PM
                             [**2117-7-26**]  03:56 AM
                             [**2117-7-26**]  04:30 AM
                             [**2117-7-26**]  06:37 PM
                             [**2117-7-26**]  06:45 PM
                             [**2117-7-26**]  08:50 PM
                             [**2117-7-26**]  11:51 PM
                             [**2117-7-27**]  12:19 AM
                             [**2117-7-27**]  04:56 AM
                             [**2117-7-27**]  05:10 AM
   WBC
   9.8
   9.0
   9.1
   Hct
   25.9
   26
   25.9
   26.1
   Plt
   237
   262
   275
   Cr
   2.9
   3.1
   3.0
   2.6
   TCO2
   29
   28
   27
   27
   27
   27
   Glucose
   67
   64
   88
   133
   Other labs: PT / PTT / INR:15.7/33.6/1.4, CK / CKMB /
   Troponin-T:88/10/0.76, ALT / AST:20/21, Alk Phos / T Bili:98/0.3,
   Amylase / Lipase:90/, Differential-Neuts:79.4 %, Band:0.0 %, Lymph:11.7
   %, Mono:8.3 %, Eos:0.3 %, Fibrinogen:489 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:3.0 g/dL, LDH:363 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
 HYPOGLYCEMIA
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 SHOCK, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 ALTERATION IN NUTRITION
 ANEMIA, CHRONIC
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEART DISEASE, OTHER
 HEMOPTYSIS
 RESPIRATORY FAILURE, CHRONIC
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   Assessment and Plan
   Assessment and Plan: 78 F with MMP including OSA requiring trach, d
   CHF, AFib, chronic C. diff infection presents from LTAC with worsening
   mental status and failure to improve.
   .
   HYPOTENSION: patient hypotensive overnight. Restarted on levophed.
   - wean levophed
   - cont midodrine
   .
   ALTERED MENTAL STATUS: Progressive worseing mental status has been a
   slow process and likely related to infection.  However, her normal WBC
   argues against infection.  Could also consider hypoxia as a potential
   cause.  Patient also has a history of stroke, and further stroke could
   explain presentation.  Exam is non-focal however.
   - follow up on sputum, blood, urine and stool cultures, abx currently
   d/c
ed except for PO vanc.
   - CVVH
   - follow electrolytes
   .
   C DIFFICILE INFECTION: Patient has had severe malnutrition from
   longstanding C. diff infection that has perisisted despite PO
   Vancomycin.
   - continue PO Vanc
   - on H2 blocker
   .
   RESPIRATORY FAILURE: Patient with severe obstructive apnea and obesity
   hypoventilation.  She has been trach dependent since [**2087**].  [**Month (only) 60**] have
   increasing restriction from anisarca and volume overload from diastolic
   failure.  BNP and CXR c/w volume overload.  Pulmonary hypertension seen
   previosly may be related to LV failure and chornic hypoventilation.
   Also with abnormal sputum appearence.  Would avoid pulmonary
   vasodilator given potential for percipitating diastolic decompensation.
   - Continue CPAP
   - adequate ABG, follow ABG
   - diurese with CVVHD
   .
   DIASTOLIC HEART FAILURE: Volume overloaded on admission.
   - diuresis
   - rate control as needed
   .
   ACUTE ON CHRONIC RENAL FAILURE: Cr on admission 1.9.  was 1.1-2.2 since
   [**Month (only) 1996**], prior had been around 1.3. CVVHD.
   .
   ATRIAL FIBRILLATION:  Was in AFib on transfer but converted to sinus.
   - rate control as needed, currently with HR in 60s.
   .
   H/O BREAST CANCER: Continue arimidex.
   .
   Type 2 Diabetes Mellitus: hypoglycemic overnight. Decrease glargine to
   30.
   .
   GERD: Stable on H2 blocker.
   .
   Stage II sacral decub: Monitor.
   .
   FEN: replete electrolytes, tube feeds
   .
   Prophylaxis: SCD
   .
   Access: midline
   .
   Code: full
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2117-7-26**] 10:00 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2117-7-20**] 04:16 PM
   Arterial Line - [**2117-7-21**] 03:00 PM
   20 Gauge - [**2117-7-22**] 09:30 AM
   Dialysis Catheter - [**2117-7-27**] 12:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2117-07-28 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Yesterday ran CVVH even and then stopped CVVH at midnight due to
   pressor requirement, however, still requiring pressors o/n.  Will
   continue CRRT until pressors are no longer needed and will consider HD
   at that point. Wound care nurse [**First Name (Titles) 293**] [**Last Name (Titles) **] Surgery signed off due to
   improvement of perianal ulcer.
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2117-7-27**] 09:00 AM
   Micafungin - [**2117-7-27**] 09:00 PM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-7-28**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (99
   HR: 62 (57 - 95) bpm
   BP: 97/36(52) {85/28(45) - 117/49(73)} mmHg
   RR: 21 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.4 kg (admission): 110 kg
   Height: 66 Inch
             Total In:
                                                                  8,470 mL
                                                                    752 mL
   PO:
             TF:
                                                                  1,425 mL
                                                                    460 mL
   IVF:
                                                                  6,850 mL
                                                                    292 mL
   Blood products:
   Total out:
                                                                  9,581 mL
                                                                      0 mL
   Urine:
                                                                     22 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,111 mL
                                                                    752 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 456 (350 - 456) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 200
   PIP: 30 cmH2O
   Plateau: 28 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/37/64/25/0
   Ve: 10.1 L/min
   PaO2 / FiO2: 128
   Physical Examination
   Gen- Alert to voice, follows with eyes, NAD
   HEENT- NCAT, Trach in place, No JVD
   Pulm- Coarse B/L BS anteriorly
   CV- S1/S no MGR
   Abd- soft, NTND, +BS
   Ext- Tr B/L LE edema
   Labs / Radiology
   242 K/uL
   7.2 g/dL
   149 mg/dL
   1.9 mg/dL
   25 mEq/L
   4.2 mEq/L
   18 mg/dL
   100 mEq/L
   135 mEq/L
   23.4 %
   6.8 K/uL
        [image002.jpg]
                             [**2117-7-27**]  04:56 AM
                             [**2117-7-27**]  05:10 AM
                             [**2117-7-27**]  11:25 AM
                             [**2117-7-27**]  11:48 AM
                             [**2117-7-27**]  05:45 PM
                             [**2117-7-27**]  05:53 PM
                             [**2117-7-27**]  11:09 PM
                             [**2117-7-27**]  11:30 PM
                             [**2117-7-28**]  04:26 AM
                             [**2117-7-28**]  04:41 AM
   WBC
   9.1
   6.8
   Hct
   26.1
   26.5
   23.4
   Plt
   275
   242
   Cr
   2.6
   2.3
   2.0
   1.7
   1.9
   TCO2
   27
   26
   28
   27
   26
   Glucose
   133
   225
   172
   157
   149
   Other labs: PT / PTT / INR:16.1/36.5/1.4, CK / CKMB /
   Troponin-T:88/10/0.76, ALT / AST:19/19, Alk Phos / T Bili:102/0.5,
   Amylase / Lipase:90/, Differential-Neuts:79.4 %, Band:0.0 %, Lymph:11.7
   %, Mono:8.3 %, Eos:0.3 %, Fibrinogen:489 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.7 g/dL, LDH:363 IU/L, Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.4
   mg/dL
   Imaging: CXR: trach in place, HD catheter and L Picc in place.  R
   pleural effusion appears stable from yesterday
   Microbiology: Ucx [**7-24**]: yeast
   Bcx [**7-24**]: Pending
   Assessment and Plan
 HYPOGLYCEMIA
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 SHOCK, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 ALTERATION IN NUTRITION
 ANEMIA, CHRONIC
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEART DISEASE, OTHER
 HEMOPTYSIS
 RESPIRATORY FAILURE, CHRONIC
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   78 F with MMP including OSA requiring trach, d CHF, AFib, chronic C.
   diff infection presents from LTAC with worsening mental status and
   failure to improve.
   HYPOTENSION: patient hypotensive overnight, required levo even after
   CVVH stopped.
   -2 units PRBC for volume and for drop in hct
   - attempt to wean levophed today
   -restart CVVH once normotensive
   -check lactate on ABG as measure of perfusion
   - cont midodrine
   ACUTE ON CHRONIC RENAL FAILURE: Cr on admission 1.9.  was 1.1-2.2 since
   [**Month (only) 1996**], prior had been around 1.3.
   -CVVH run even once off pressors
   -switch to HD for d/c to rehab facility
   RESPIRATORY FAILURE: likely related to recent sepsis on top of chronic
   respiratory failure
   - Continue PSV and attempt to wean as tolerated today
   - ABG q12hr
   - run CVVH even once off pressors
   ANEMIA: current 23.4 with 3 point drop in hct o/n
   -Goal hct > 22
   -transfuse 2 units PRBC since hct dropped 3 points and will need volume
   anyway.
   -q12 hct
   FUNGURIA: culture grew [**Female First Name (un) 188**] albicans
   -continue micafungin until Ucx clear
   -Ucx
   ALTERED MENTAL STATUS: either underlying demetia vs infection vs [**1-25**]
   renal failure
   - follow up on sputum, blood, urine and stool cultures
   - CVVH
   - follow electrolytes
   C DIFFICILE INFECTION: Patient has had severe malnutrition from
   longstanding C. diff infection that has perisisted despite PO
   Vancomycin.
   - continue PO Vanc d3/14
   - on H2 blocker
   DIASTOLIC HEART FAILURE: Volume overloaded on admission.
   - diuresed, continue to take volume off as tolerated on CVVH
   - rate control as needed
   ATRIAL FIBRILLATION:  Was in AFib on transfer but converted to sinus.
   - rate control as needed, currently with HR in 60s.
   H/O BREAST CANCER: Continue arimidex.
   Type 2 Diabetes Mellitus: Not hypoglycemic overnight. Increase glargine
   to 32 units QD.
   GERD: Stable on H2 blocker.
   Stage II sacral decub: Monitor, wound care
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2117-7-27**] 04:32 PM 65 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2117-7-20**] 04:16 PM
   Arterial Line - [**2117-7-21**] 03:00 PM
   20 Gauge - [**2117-7-22**] 09:30 AM
   Dialysis Catheter - [**2117-7-27**] 12:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments: w/ family
   Code status: Full code
   Disposition:ICU, CM for rehab placement

2117-07-29 06:37:00 Physician Resident Progress Note
Chief Complaint: 78 yo woman with history of multiple medical problems
   including [**Name2 (NI) 1343**],  type 2 diabetes mellitus, hypertension, obstructive
   sleep apnea s/p trach placement, and breast cancer admitted from [**Hospital1 12**]
   MACU with decline in mental status.
   24 Hour Events:
   Currently off CRRT.
   Had persistent pressor requirement and decreased HCT. Bolused 2U PRBCs,
   off pressors since 5pm y/d.   Was hyperglycemic, increased lantus to 32
   initially, became hypoglycemic, normalized on lantus 31U.
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2117-7-27**] 09:00 AM
   Micafungin - [**2117-7-28**] 08:32 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2117-7-28**] 08:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-7-29**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 87 (50 - 90) bpm
   BP: 97/36(52) {72/29(42) - 133/102(109)} mmHg
   RR: 24 (15 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 106.4 kg (admission): 110 kg
   Height: 66 Inch
             Total In:
                                                                  3,100 mL
                                                                    446 mL
   PO:
             TF:
                                                                  1,560 mL
                                                                    386 mL
   IVF:
                                                                    600 mL
                                                                     60 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                     17 mL
                                                                      0 mL
   Urine:
                                                                     17 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,083 mL
                                                                    446 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: Pressure support 15
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 538 (369 - 538) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 36 cmH2O
   Plateau: 33 cmH2O
   SpO2: 100%
   ABG: 7.46/36/71/25/1
   Ve: 11.3 L/min
   PaO2 / FiO2: 142
   Physical Examination
   Alert to voice, able to follow commands., NAD
   HEENT: trach in place, moderate clear secretions, no JVD.
   Pulm: course breath sounds bilaterally heard through anterior chest
   CV: brady, S1/S2 clear, no MRG.
   ABD: soft, NTND, +BS
   Ext: Tr B/LE edema, distal pulses palpable
   Labs / Radiology
   216 K/uL
   8.6 g/dL
   82 mg/dL
   2.4 mg/dL
   25 mEq/L
   4.3 mEq/L
   24 mg/dL
   100 mEq/L
   136 mEq/L
   28.4 %
   7.0 K/uL
        [image002.jpg]
                             [**2117-7-27**]  05:45 PM
                             [**2117-7-27**]  05:53 PM
                             [**2117-7-27**]  11:09 PM
                             [**2117-7-27**]  11:30 PM
                             [**2117-7-28**]  04:26 AM
                             [**2117-7-28**]  04:41 AM
                             [**2117-7-28**]  12:00 PM
                             [**2117-7-28**]  10:34 PM
                             [**2117-7-29**]  03:18 AM
                             [**2117-7-29**]  03:42 AM
   WBC
   6.8
   7.0
   Hct
   23.4
   28.4
   Plt
   242
   216
   Cr
   2.0
   1.7
   1.9
   2.4
   TCO2
   28
   27
   26
   21
   28
   26
   Glucose
   172
   157
   149
   82
   Other labs: PT / PTT / INR:15.6/32.4/1.4, CK / CKMB /
   Troponin-T:88/10/0.76, ALT / AST:19/18, Alk Phos / T Bili:103/1.4,
   Amylase / Lipase:90/, Differential-Neuts:64.0 %, Band:1.0 %, Lymph:27.0
   %, Mono:8.0 %, Eos:0.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.8 g/dL, LDH:232 IU/L, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.6
   mg/dL
   Imaging: Roted to left, poor penetration,overall better study than y/d.
   Trach in place, HD catheter/ DIC  in R atrium, L picc line,feeding tube
   beyond distal esophagus, severe cardiomegaly and vascular congestion +
   enlarged pulmonary arteries .  R costophrenic border clearer, perhaps
   interval improvement R pleural effusion. over 24 hours in mild residual
   pulmonary edema, but severe cardiomegaly nd
   pulmonary vascular congestion have worsened. The pulmonary arteries are
   severely enlarged, indicating a component of pulmonary hypertension.
   Microbiology: MRSA screen pending
   2 blood Cx pending from A-line ([**7-23**])
   Ucx final read on [**7-24**] was [**Female First Name (un) **].
   Mini -Bal ([**7-22**]) -fungal cx preliminary read, no yeast (gram stain,bact
   cx no org).
   ECG: NSR/SB o/n with occaisional PVCs.
   Assessment and Plan
   78 y/o female with MMP including diastolic CHF, chronic C diff
   infection, OSA s/p trach, admitted with decreased mental status/
   respiratory failure, now with persistent hypotension, respiratory
   failure.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 DIABETES MELLITUS (DM), TYPE II
 ANEMIA, CHRONIC
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERATION IN NUTRITION
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HEART DISEASE, OTHER
 RESPIRATORY FAILURE, CHRONIC
   Hx Hypotension: thought secondary to intravascular depletion. Off CVVH,
   currently normotensive, BP
s have stabilized with MAPs in 90s , after
   receiving 2 U PRBC. Levophed was stopped y/d. Parameters currently are:
   Last lactate 1.2 this am indicating adequate perfusion. Check Q12.
   Continue midodrine,  continue to monitor.
   Hx Anemia: HCT increased from 23.4 to 28.4 after receiving 2 U PRBC.
   Goal HCT was 22 however given seems to benefit from extra volume also,
   consider change goal HCT to > 25.
   Check HCT Q12.
   Acute on Chronic Renal Failure: Cr today 2.4 up from 1.9 y/d in setting
   of stopping CVVH.  Now BPs have stabilized may consider restarting
   CVVH. However longterm goal to get her to LTCF,consider starting HD if
   BPs remain stable through day, will allow transition to rehab.
   Respiratory: Chronic respiratory failure
   Given RISB transitioned to Pressure support 15, maintaing tidal volume,
   spontaneous breathing. Attempt to wean as tolerated.
   ABG adequate 02, check Q12.
   Funguria: Last Ucx
ve, has been on micafungin x8 days. Can d/c.
   AMS: improved, has underlying dementia, contribution from renal
   failure.
   Consider restart CVH.
   Continue to follow electrolytes
   C.diff:
   Severe malnourishment due to C.diff.
   Currently on H2 blocker. Day [**4-6**] vanc. Cont ABX.
   dHF:  Pulm edema on CXR persists, bilateral crackles.  +fluid balance
   today 3 L+ restart CVVH vs HD.
   Dm: Hyperglycemic to 200s, increased glargine from 30 to 32, became
   hypo to 70s, decreased to 31, euglycemic. Change glargine to 29U with
   goal BS ranging 100-150.  Continue GFS.
   Stable decub: monitor, wound care.
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2117-7-28**] 11:22 PM 65 mL/hour
   Glycemic Control:  glargine 29U
   Lines:
   PICC Line - [**2117-7-20**] 04:16 PM
   Arterial Line - [**2117-7-21**] 03:00 PM
   Dialysis Catheter - [**2117-7-27**] 12:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: h2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now , case management regarding bed today.

2117-07-30 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**7-29**]
   Case management working on bed, may places denied due to medicaid.
   Still working on placement.
   Glargine decreased to 29.
   Renal ok to HD today, tolerated well with MAP > 55. Goal output was
   500cc
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Rash;
   Last dose of Antibiotics:
   Micafungin - [**2117-7-28**] 08:32 PM
   Vancomycin - [**2117-7-30**] 02:17 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2117-7-29**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2117-7-29**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-7-30**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (97
   HR: 79 (61 - 91) bpm
   BP: 117/48(70) {95/38(56) - 128/51(79)} mmHg
   RR: 19 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 106.4 kg (admission): 110 kg
   Height: 66 Inch
             Total In:
                                                                  1,939 mL
                                                                    469 mL
   PO:
             TF:
                                                                  1,559 mL
                                                                    396 mL
   IVF:
                                                                    290 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                    525 mL
                                                                      0 mL
   Urine:
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,414 mL
                                                                    469 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 491 (430 - 491) mL
   PS : 8 cmH2O
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 45
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.38/54/68/30/4
   Ve: 8.6 L/min
   PaO2 / FiO2: 136
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   230 K/uL
   8.8 g/dL
   121 mg/dL
   2.0 mg/dL
   30 mEq/L
   4.1 mEq/L
   16 mg/dL
   101 mEq/L
   138 mEq/L
   29.5 %
   9.8 K/uL
        [image002.jpg]
                             [**2117-7-27**]  11:30 PM
                             [**2117-7-28**]  04:26 AM
                             [**2117-7-28**]  04:41 AM
                             [**2117-7-28**]  12:00 PM
                             [**2117-7-28**]  10:34 PM
                             [**2117-7-29**]  03:18 AM
                             [**2117-7-29**]  03:42 AM
                             [**2117-7-29**]  03:09 PM
                             [**2117-7-30**]  03:16 AM
                             [**2117-7-30**]  03:40 AM
   WBC
   6.8
   7.0
   9.8
   Hct
   23.4
   28.4
   29.5
   Plt
   [**Telephone/Fax (3) 9921**]
   Cr
   1.9
   2.4
   2.0
   TCO2
   27
   26
   21
   28
   26
   28
   33
   Glucose
   149
   82
   121
   Other labs: PT / PTT / INR:15.2/32.3/1.3, CK / CKMB /
   Troponin-T:88/10/0.76, ALT / AST:19/28, Alk Phos / T Bili:109/0.7,
   Amylase / Lipase:90/, Differential-Neuts:75.9 %, Band:0.0 %, Lymph:15.4
   %, Mono:7.9 %, Eos:0.5 %, Fibrinogen:489 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.9 g/dL, LDH:325 IU/L, Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 DIABETES MELLITUS (DM), TYPE II
 ANEMIA, CHRONIC
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERATION IN NUTRITION
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HEART DISEASE, OTHER
 RESPIRATORY FAILURE, CHRONIC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2117-7-20**] 04:16 PM
   Arterial Line - [**2117-7-21**] 03:00 PM
   Dialysis Catheter - [**2117-7-27**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: